US07196111B2
A mixture of 3.56 g (12 mmol) of 4-(3-trifluoromethyl-phenoxy)-benzoic acid methyl ester, and 15 mL (60 mmol) of 4 N sodium hydroxide (NaOH) solution in 45 mL of tetrahydrofuran (THF) and 15 mL of methanol (MeOH) was heated at 50° C. for 25 h, when analysis by thin layer chromatography revealed complete conversion of starting material to product. The reaction mixture was concentrated and acidified with 2N HCl solution while keeping the flask in an ice bath, when a white precipitate formed. The solid was filtered and dried to give 3.02 g (89%) of desired 4-(3-trifluoromethyl-phenoxy)-benzoic acid as a white solid as indicated by 1H NMR and 19F-NMR.

reactant | 4-(3-trifluoromethyl-phenoxy)-benzoic acid methyl ester | 12 mmol, 3.56 g | COC(C1=CC=C(C=C1)OC1=CC(=CC=C1)C(F)(F)F)=O | C15H11F3O3
reactant | sodium hydroxide | 60 mmol, 4 N, 15 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
product | 4-(3-trifluoromethyl-phenoxy)-benzoic acid | 3.02 g, 89% | FC(C=1C=C(OC2=CC=C(C(=O)O)C=C2)C=CC1)(F)F | C14H9F3O3
